US07034015B2
N-[5-Bromo-2-({3-chloro-4-[(2-methylphenyl)carbonyl]phenyl}amino)phenyl]-2,2,2-trifluoroethanesulfonamide (Compound 180)
The reaction was conducted as described in the preparation of compound 179 using {4-[(2-amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone (0.15 g, 0.35 mmol)(disclosed in WO 01/05744) in pyridine (0.47 mL) and trifluoroethanesulfonyl chloride (0.059 mL, 0.53 mmol). The reaction time was 4 h. Work up as described in the preparation of compound 179 afforded the title compound as brown crystals.

reactant | {4-[(2-amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone | 0.35 mmol, 0.15 g | NC1=C(C=CC(=C1)Br)NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C20H16BrClN2O
reactant | trifluoroethanesulfonyl chloride | 0.53 mmol, 0.059 mL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | pyridine | 0.47 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-Bromo-2-({3-chloro-4-[(2-methylphenyl)carbonyl]phenyl}amino)phenyl]-2,2,2-trifluoroethanesulfonamide | BrC=1C=CC(=C(C1)NS(=O)(=O)CC(F)(F)F)NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C22H17BrClF3N2O3S
